US06245922B1
Following the procedure described in Example 29, 2-hydroxyfluoren-9-one (Aldrich) was reacted with ethylene carbonate and triethylamine to obtain 2-hydroxyethoxyfluoren-9-one (63% yield), with a melting point of 118-119° C. The title compound, with a melting point of 131.5-133° C., was obtained in 96% yield by the previously described DBU-catalyzed reaction with VDM in heptane.

reactant | 2-hydroxyfluoren-9-one | OC1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C13H8O2
reactant | ethylene carbonate | C1(OCCO1)=O | C3H4O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-hydroxyethoxyfluoren-9-one | 63% yield | OCCOC1=CC=CC=2C3=CC=CC=C3C(C12)=O | C15H12O3
